US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Benzylpiperidin-4-oxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-benzylpiperidin-4-oxy]benzoyl)benzo[b]thiophene (846 mg, 1.50 mmol), ethane thiol (7.50 mmol), and aluminum chloride (1.2 g, 9.00 mmol) were converted to 450 mg (56%) of the title compound by the procedure of Example 16. MS(FD) 536(M+). IR (CHCl3) ν max 3311, 3023, 3011, 2953, 1721, 1596, 1469, 1257, 1166.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-benzylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 1.50 mmol, 846 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)CC2=CC=CC=C2)=O)C2=CC=C(C=C2)OC)C1 | C35H33NO4S
reactant | ethane thiol | 7.50 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 9.00 mmol, 1.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Benzylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 450 mg, 56% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)CC2=CC=CC=C2)=O)C2=CC=C(C=C2)O)C1 | C33H29NO4S
